* SPDX-License-Identifier: Apache-2.0
* Routed direct-regenerative RX through static split capture.
.include /src/lane_rx_regenerative_frontend/lane_rx_regenerative_frontend.spice
.include /src/deserializer_split/deserializer_split.spice

.subckt lane_rx_regenerative_capture RXP RXN
+ TERM_EN0_N TERM_EN1_N TERM_EN2_N TERM_EN3_N TERM_EN4_N TERM_EN5_N TERM_EN6_N
+ VTHP VTHN RX_BIAS RX_BW_EN_N
+ E_SENSE_CLK E_REGEN_CLK E_REGEN_CLKB E_CAPTURE_CLK E_CAPTURE_CLKB E_SENSE_BOOST
+ O_SENSE_CLK O_REGEN_CLK O_REGEN_CLKB O_CAPTURE_CLK O_CAPTURE_CLKB O_SENSE_BOOST
+ VDD VSS RX_RAWP RX_RAWN FE_E_P FE_E_N FE_O_P FE_O_N
+ EVEN_Q EVEN_QB ODD_Q ODD_QB
XFRONT RXP RXN TERM_EN0_N TERM_EN1_N TERM_EN2_N TERM_EN3_N TERM_EN4_N
+ TERM_EN5_N TERM_EN6_N VTHP VTHN RX_BIAS RX_BW_EN_N
+ E_SENSE_CLK E_REGEN_CLK E_REGEN_CLKB E_CAPTURE_CLK E_CAPTURE_CLKB E_SENSE_BOOST
+ O_SENSE_CLK O_REGEN_CLK O_REGEN_CLKB O_CAPTURE_CLK O_CAPTURE_CLKB O_SENSE_BOOST
+ VDD VSS RX_RAWP RX_RAWN FE_E_P FE_E_N FE_O_P FE_O_N
+ lane_rx_regenerative_frontend
XCAP FE_E_P FE_E_N FE_O_P FE_O_N E_CAPTURE_CLK E_CAPTURE_CLKB
+ O_CAPTURE_CLK O_CAPTURE_CLKB VDD VSS EVEN_Q EVEN_QB ODD_Q ODD_QB
+ deserializer_split_capture
.ends lane_rx_regenerative_capture
